US06482844B1
To a solution of 4.89 g (0.027 mol) of 4,5-dimethylimidazole hydrobromide and 5.7 g (0.028 mol) of 2-chlorobenzyl bromide in 20 ml of DMF is added 6 ml of 50% potassium hydroxide aqueous solution dropwise. The reaction mixture is stirred at room temperature under nitrogen overnight. The reaction mixture is then poured into ether (100 ml)/water (50 ml). The ether layer is separated, washed with water (10 ml×2), dried over anhydrous sodium sulfate and evaporated in vacuo. The raw material is subjected to chromatography on silica gel using dichloromethane-methanol (10:1) as eluant to give 2.67 g (0.012 mol, 44%) of 1-(2-chlorobenzyl)-4,5-dimethylimidazole as a pale yellow oil. LC-MS (M++1): 221.2; 1H-NMR (δ, CDCl3): 2.00 (3H, s), 2.20 (3H, s), 5.07 (2H, s), 6.59 (1H, dd, J=9.2, 2), 7.17 (1H, td, J=8, 1.2), 7.23 (1H, td, J=8, 1.6), 7.38 (2H, dd, J=7.2, 1.6).

reactant | 4,5-dimethylimidazole hydrobromide | 0.027 mol, 4.89 g | Br.CC=1N=CNC1C
reactant | 2-chlorobenzyl bromide | 0.028 mol, 5.7 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | potassium hydroxide | 6 ml | [OH-].[K+]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-(2-chlorobenzyl)-4,5-dimethylimidazole | 0.012 mol, 2.67 g, 44% | ClC1=C(CN2C=NC(=C2C)C)C=CC=C1 | C12H13ClN2
